2152-06-04 07:37:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 Overnight patient was placed on vanco/zosyn for broad coverage in a
   [**Name (NI) 621**] pt.  She was placed on O2.
 SPUTUM CULTURE - At [**2152-6-4**] 05:11 AM
 Episode of SOB  this AM, Desat to 88% on 4L NC.  Patient was
   suctioned.  Started on FM with 100% FiO2 briefly and then quickly down
   to 40%.  Afebrile at the time.  She was given a neb treatment without
   much effect.  A repeat CXR was obtained.  Per nursing patient has
   copious resp secretions that are white.
   Subjective: patient is aphasic and incoherent.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-4**] 04:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-4**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 93 (78 - 104) bpm
   BP: 112/44(62) {89/27(42) - 117/56(70)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
             Total In:
             4,835 mL
   PO:
             TF:
   IVF:
   135 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,650 mL
   Urine:
   2,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,185 mL
   Respiratory support
   O2 Delivery Device: FM 40% FiO2
   SpO2: 96%
   ABG:
   Physical Examination
   Gen: aphasic, with residual right sided hemiparesis, repeating sounds
   incoherently.
   Lungs: diffuse rhonchi
   CV: rapid rate, regular rhythm, s1 & s2 nl, no m/r/g
   ABD: + bs, nt, nd, soft
   EXT: some LE edema bilat
   Labs / Radiology
        [image002.jpg]
   Labs pending this morning due to difficult draw.
   PROBLEM LIST:
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, OTHER
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ASSESSMENT AND PLAN:
   81 yo F w/h/o aspiration PNA and COPD, admitted from NH with SOB,
   wheezing and hypoxia w/ possible LLL opacity on OSH film.
   #. Respiratory Distress: wheezy on exam; LLL infiltrate on CXR; WBC
   22-28; resp status likely [**12-25**] PNA (either NH/CAP vs. aspiration). [**Month (only) 60**]
   have triggered COPD flare.  Minimal evidence of CHF exacerbation on
   imaging, exam and labs, but does have CHF history.  Patient has copious
   respiratory secretions.
   -- continue steroids; will start prednisone 40 mg QD in am
   -- standing albuterol and ipratropium nebs overnight; will consider
   changing to PRN in the am pending improvement
   -- on vanco/zosyn for NH/HAP broad coverage esp since she failed the
   levaquin tx
   -- deferring further w/u for PE given PNA likely cause
   -- UCx, BCx pending from ED
   -- follow up re: sputum cx
   -- low suspicion for MI, but will continue cycling enzymes with second
   set with am labs (first set negative)
   --suctioning Q1 hr., Chest PT.
   #. COPD:
   -- management as above
   .
   #. CHF: no evidence of volume overload on exam; BNP 38 (negative) at
   OSH. No echo in file at the [**Hospital1 54**].
   -- d/c maintenance fluids
   -- obtain ECHO
   .
   #. HTN:
   -- restart home dose of metoprolol
   .
   #. Hypothyroidism
   -- continue levothyroxine 88 mcg QD
   .
   #. Dementia: not currently on medications
   .
   #. Depression: was on venlafaxine in past; held on last admission for
   c/f NMS.  Nothing on med list currently.
   .
   #. Osteoporosis: currently on calcium supplements
   -- cont calcium; t/c starting Vit D
   -- fall precautions
   .
   #. FEN: takes ProBalance 65 ml/hr; on at 9 pm, off at 6 am.  200 cc
   free water flushes Qshift; unclear what she takes in PO if anything
   (confusion records vs. reports frm daughter)
   -- holding TF pending improved respiratory status.  Concern re:
   aspiration if patient requires BPAP.
   -- has G tube; will obtain c/s for tube feeds in am
   -- Cr slightly above baseline (0.7 vs. 0.4-0.5); will place on gentle
   IVF overnight
   .
   #. PPX: PPI while on Steroids ; SHQ (wears boots at rehab); bowel
   regimen
   .
   #. Code: DNR/DNI, confirmed with family by ED staff.
   .
   #. Contacts: Spoke with daughter [**Name (NI) 3577**] [**Name (NI) 3575**] (HCP) [**Telephone/Fax (1) 3578**]
   for ICU consent and confirm code status.
   .
   #. Dispo: to remain in ICU overnight for tx and observation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-6-4**] 01:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-05 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-4**] 04:12 AM
   Vancomycin - [**2152-6-4**] 10:00 PM
   Metronidazole - [**2152-6-5**] 12:00 AM
   Ceftazidime - [**2152-6-5**] 12:19 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2152-6-4**] 10:17 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-5**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-5**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 84 (57 - 132) bpm
   BP: 110/61(105) {83/34(36) - 159/111(110)} mmHg
   RR: 28 (16 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  5,549 mL
                                                                    386 mL
   PO:
             TF:
             33 mL
   IVF:
                                                                    849 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                    330 mL
   Urine:
                                                                  3,950 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,599 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   11.3 g/dL
   130 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   143 mEq/L
   34.0 %
   20.8 K/uL
        [image002.jpg]
                             [**2152-6-4**]  06:15 PM
   WBC
   20.8
   Hct
   34.0
   Plt
   321
   Cr
   0.5
   TropT
   0.02
   Glucose
   130
   Other labs: CK / CKMB / Troponin-T:264/11/0.02, ALT / AST:17/24, Alk
   Phos / T Bili:91/0.2, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 yo F w/h/o aspiration PNA and COPD, admitted from NH with SOB,
   wheezing and hypoxia w/ possible LLL opacity on OSH film.
   #. Respiratory Distress: wheezy on exam; LLL infiltrate on CXR; WBC
   22-28; resp status likely [**12-25**] PNA (either NH/CAP vs. aspiration). [**Month (only) 60**]
   have triggered COPD flare.  Minimal evidence of CHF exacerbation on
   imaging, exam and labs, but does have CHF history.  Patient has copious
   respiratory secretions.
   -- continue steroids; will start prednisone 40 mg QD in am
   -- standing albuterol and ipratropium nebs overnight; will consider
   changing to PRN in the am pending improvement
   -- on vanco/zosyn for NH/HAP broad coverage esp since she failed the
   levaquin tx
   -- deferring further w/u for PE given PNA likely cause
   -- UCx, BCx pending from ED
   -- follow up re: sputum cx
   -- low suspicion for MI, but will continue cycling enzymes with second
   set with am labs (first set negative)
   --suctioning Q1 hr., Chest PT.
   #. COPD:
   -- management as above
   .
   #. CHF: no evidence of volume overload on exam; BNP 38 (negative) at
   OSH. No echo in file at the [**Hospital1 54**].
   -- d/c maintenance fluids
   -- obtain ECHO
   .
   #. HTN:
   -- restart home dose of metoprolol
   .
   #. Hypothyroidism
   -- continue levothyroxine 88 mcg QD
   .
   #. Dementia: not currently on medications
   .
   #. Depression: was on venlafaxine in past; held on last admission for
   c/f NMS.  Nothing on med list currently.
   .
   #. Osteoporosis: currently on calcium supplements
   -- cont calcium; t/c starting Vit D
   -- fall precautions
   .
   #. FEN: takes ProBalance 65 ml/hr; on at 9 pm, off at 6 am.  200 cc
   free water flushes Qshift; unclear what she takes in PO if anything
   (confusion records vs. reports frm daughter)
   -- holding TF pending improved respiratory status.  Concern re:
   aspiration if patient requires BPAP.
   -- has G tube; will obtain c/s for tube feeds in am
   -- Cr slightly above baseline (0.7 vs. 0.4-0.5); will place on gentle
   IVF overnight
   .
   #. PPX: PPI while on Steroids ; SHQ (wears boots at rehab); bowel
   regimen
   .
   #. Code: DNR/DNI, confirmed with family by ED staff.
   .
   #. Contacts: Spoke with daughter [**Name (NI) 3577**] [**Name (NI) 3575**] (HCP) [**Telephone/Fax (1) 3578**]
   for ICU consent and confirm code status.
   .
   #. Dispo: to remain in ICU overnight for tx and observation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-5**] 03:44 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-6-4**] 01:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-05 10:08:00 Physician Attending Progress Note
Chief Complaint: Pneuomonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   patient admit with aspiration PNA and COPD exacerbation
   24 Hour Events:
   Persistent close treatment with some improvement in level of
   respiratory distress.
   She has remaining significant pulmonary secretions requiring frequent
   suctioning and also has continued wheezing throughout her exam.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-4**] 04:12 AM
   Vancomycin - [**2152-6-4**] 10:00 PM
   Metronidazole - [**2152-6-5**] 08:04 AM
   Ceftazidime - [**2152-6-5**] 09:07 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2152-6-4**] 10:17 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-5**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-6-5**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 92 (57 - 114) bpm
   BP: 135/52(74) {83/34(36) - 159/111(110)} mmHg
   RR: 28 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  5,549 mL
                                                                    919 mL
   PO:
             TF:
             80 mL
   IVF:
                                                                    849 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                    390 mL
   Urine:
                                                                  3,950 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,599 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Bronchial: , Wheezes : ) She does have significant
   increase in expiratory time and evidence of persistent airflow
   obstruction.
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   330 K/uL
   91 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   16 mg/dL
   111 mEq/L
   143 mEq/L
   34.6 %
   20.6 K/uL
        [image002.jpg]
                             [**2152-6-4**]  06:15 PM
                             [**2152-6-5**]  07:27 AM
   WBC
   20.8
   20.6
   Hct
   34.0
   34.6
   Plt
   321
   330
   Cr
   0.5
   0.5
   TropT
   0.02
   Glucose
   130
   91
   Other labs: PT / PTT / INR:12.9/26.0/1.0, CK / CKMB /
   Troponin-T:224/11/0.02, ALT / AST:17/24, Alk Phos / T Bili:91/0.2,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   CXR
She has right mid-lung zone opacity which is her right arm
   overlying.  She persists in left lower lobe ill defined opacity.
   Assessment and Plan
   81 yo female
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION-
   -continue prednisone and will move to taper as possible.
   -Will have to follow exam to determine taper
   -Will continue with current prednisone dosing as she is requiring nebs
   PRN (atrovent) and will need to get a better and more durable response
   to bronchodilators.
   -This may require intermittent IPPV to aid with lung recruitment.
 PNEUMONIA, OTHER-
   -Will move to vanco/CTZ/Flagyl/Azithro for ongoing Rx of Pneumonia
   -She raises clear concern for persistent aspiration events leading to
   inability to clear her pulmonary secretions and pneumonia.
   -Add urine legnionella to testing.
   -Will need Chest PT and continued support
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-5**] 03:44 AM 20 mL/hour
   Glycemic Control:
   Lines: NO CVL
   20 Gauge - [**2152-6-4**] 01:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2152-06-06 06:59:00 Physician Resident Progress Note
Chief Complaint: hypoxia/dyspnea
   81 y/o F NH resident h/o COPD and recurrent PNA and COPD a/w aspiration
   PNA and COPD exacerbation.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2152-6-5**] 11:33 AM
   following cardiac enzymes
   CK    134 ->-264 -->224
   Trop .04 -->.02 -->.03
   diuresis overnight with lasix 10 x 3.
   Patient lost last PIV this morning.  Difficulty to obtain blood for
   labs.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-4**] 04:12 AM
   Vancomycin - [**2152-6-5**] 10:00 AM
   Metronidazole - [**2152-6-5**] 04:00 PM
   Ceftazidime - [**2152-6-5**] 04:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-6-5**] 04:00 PM
   Furosemide (Lasix) - [**2152-6-5**] 06:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-6**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 104 (76 - 109) bpm
   BP: 108/64(74) {89/32(47) - 158/99(102)} mmHg
   RR: 23 (10 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,076 mL
                                                                    355 mL
   PO:
             TF:
                                                                    476 mL
                                                                    286 mL
   IVF:
                                                                  1,240 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,317 mL
                                                                    785 mL
   Urine:
                                                                  2,317 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -241 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: Less agitated and interactive this morning.  Breathing
   comfortably, in NAd
   Lungs: breathing symmetrically, diffuse rhonchi and moderate secretions
   CV: rapid rate, regular rhythm s1 & s2 nl, no m/r/g
   Abd: +bs, non-tender, nd, soft
   Ext: warm dry trace edema
   Labs / Radiology
   330 K/uL
   11.4 g/dL
   91 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   16 mg/dL
   111 mEq/L
   143 mEq/L
   34.6 %
   20.6 K/uL
   [**6-5**]: [image002.jpg]
   [**6-6**]:
                                     142
                               [image004.gif]
                                     108
                               [image004.gif]
                                     16
   [image006.gif]
   103
                                                                   AGap=15
   [image007.gif]
   3.5
                               [image004.gif]
                                     23
                               [image004.gif]
                                     0.6
   [image009.gif]
   Comments:
   K: Hemolysis Falsely Elevates K
   Ca: 8.3 Mg: 2.0 P: 1.8
   Comments:
   Mg: Hemolysis Falsely Elevates Mg
   86
                                                                      17.4
                                                            [image009.gif]
                                    11.5
   [image006.gif]
   371
                 [image010.gif]
   [image006.gif]
                                    35.0
   [image009.gif]
                             [**2152-6-4**]  06:15 PM
                             [**2152-6-5**]  07:27 AM
   WBC
   20.8
   20.6
   Hct
   34.0
   34.6
   Plt
   321
   330
   Cr
   0.5
   0.5
   TropT
   0.02
   0.03
   Glucose
   130
   91
   Other labs: PT / PTT / INR:12.9/26.0/1.0,
    CK / CKMB / Troponin-T:224/10/0.03,
   ALT / AST:17/24, Alk Phos / T Bili:91/0.2,
    Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR [**2152-6-6**]
 hazy LL infiltrate bilaterally.  Right side
   appears improved from previous.
   ECHO [**2152-6-5**]
 CONCLUSION:
   The left atrium is dilated. The left ventricle is not well seen. Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. Overall left ventricular systolic function is normal
   (LVEF>55%). The aortic valve is not well seen. The mitral valve
   leaflets are not well seen.
   IMPRESSION: poor technical quality due to patient's body habitus. Left
   ventricular function is probably normal, a focal wall motion
   abnormality cannot be fully excluded. The right ventricle is not well
   seen. Valvular function could not be evaluated.
   Microbiology: urine cx neg
   urine leg neg
   blood cx neg
   sputum cx - contaminated
   Assessment and [**Last Name 440**]
   PROBLEM LIST:
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, OTHER
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ASSESSMENT & PLAN:
   81 y/o F NH resident h/o COPD and recurrent PNA and COPD a/w aspiration
   PNA and COPD exacerbation.
   # PNA
 Unimproved clinically with persistent leukocytosis (perhaps an
   element of reactive WBC from steroids) and copious purulent secretions
   -cont. vanco/ceftaz/flagyl (day 3), and start azithro (day [**12-28**]) for
   atypicals
   -freq. suctioning, chest PT
   -repeat sputum cx, urinary legionella AG
   -blood cx NGTD
   -consider bronch if suspect severe plugging or not improved
   .
   #COPD
   -cont. prednisone 40 mg, wrote to decrease to 30mg PO tomorrow AM.
   -incr. freq. albuterol nebs q2h
   -atrovent nebs q6h
   .
   #.CHF - CXR reflects mild degree of volume overload.  ECHO was limited
   study but showed good overall LV fn so less likely to be playing a role
   in pt
s dyspnea.
   -gentle diuresis, 10 mg lasix IV now, goal: even to negative
   .
   #.HTN:
   -cont. lopressor
   .
   # Hypothyroidism
   - cont. levothyroxine
   .
   #.Osteoporosis: currently on calcium supplements
   - cont calcium; t/c starting Vit D
   - fall precautions
   .
   #F/E/N
   -TF via g-tube
   -goal: -even to negative
   .
   #PPx: PPI, SQH, bowel regimen
   .
   #Access: lost PIV this am, hard to get venous access.  Place PICC today
   .
   #. Code: DNR/DNI, confirmed with family by ED staff.
   .
   #. Contacts: Spoke with daughter [**Name (NI) 3577**] [**Name (NI) 3575**] (HCP) [**Telephone/Fax (1) 3578**]
   for ICU consent and confirm code status.
   .
   #. Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-6**] 06:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-6-4**] 01:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-06 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure/Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2152-6-5**] 11:33 AM
   Lasix given with diuresis effected overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-4**] 04:12 AM
   Ceftazidime - [**2152-6-5**] 04:56 PM
   Metronidazole - [**2152-6-6**] 08:11 AM
   Vancomycin - [**2152-6-6**] 09:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-5**] 06:10 PM
   Heparin Sodium (Prophylaxis) - [**2152-6-6**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Psychiatric / Sleep: Delirious, MIld
   Flowsheet Data as of  [**2152-6-6**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 98 (76 - 110) bpm
   BP: 116/53(69) {86/32(45) - 158/99(102)} mmHg
   RR: 26 (4 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,076 mL
                                                                    980 mL
   PO:
             TF:
                                                                    476 mL
                                                                    560 mL
   IVF:
                                                                  1,240 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  2,317 mL
                                                                    985 mL
   Urine:
                                                                  2,317 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -241 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, More withdrawn
   Labs / Radiology
   11.5 g/dL
   371 K/uL
   103 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   35.0 %
   17.4 K/uL
        [image002.jpg]
                             [**2152-6-4**]  06:15 PM
                             [**2152-6-5**]  07:27 AM
                             [**2152-6-6**]  08:00 AM
   WBC
   20.8
   20.6
   17.4
   Hct
   34.0
   34.6
   35.0
   Plt
   [**Telephone/Fax (3) 3606**]
   Cr
   0.5
   0.5
   0.6
   TropT
   0.02
   0.03
   Glucose
   130
   91
   103
   Other labs: PT / PTT / INR:12.9/26.0/1.0, CK / CKMB /
   Troponin-T:224/10/0.03, ALT / AST:17/24, Alk Phos / T Bili:91/0.2,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   81 yo female with history of COPD now admit with acute exacerbation and
   has complicating issues of volume overload and signficiant aspiraiton
   risk contributing to clinical worsening
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Pred 40mg/d
taper to 30mg today
   -Continue with nebs
 PNEUMONIA, OTHER
   Vanco/Ceftaz/Flagyl/Azithro
   [**Month (only) 60**] be aspiration triggering clinical worsening
will need 7 day Rx.
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-6**] 10:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-6-4**] 01:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2152-06-07 07:04:00 Physician Resident Progress Note
Chief Complaint: hypoxia & dyspnea
   81 y/o F NH resident h/o COPD and recurrent PNA and COPD a/w aspiration
   PNA and COPD exacerbation.
   24 Hour Events:
 PICC LINE - START [**2152-6-6**] 04:16 PM
 lasix 10 mg 1V x2 yesterday.  decreased UOP to 20-27 cc/hr x hrs this
   morning.  no increase in BUN or Cr.
 Patient had multiple separate episodes of non-sustained VTACH [**7-2**]
   beats of monomorphic VTACH each time.  Occurred on approx 7 times
   overnight.   Patients electrolytes were WNL at the time of these
   episodes.  No intervention was taken.
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-6**] 09:45 PM
   Ceftazidime - [**2152-6-6**] 11:37 PM
   Metronidazole - [**2152-6-6**] 11:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-6-6**] 08:11 AM
   Furosemide (Lasix) - [**2152-6-6**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-7**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 94 (64 - 111) bpm
   BP: 129/74(88) {86/32(45) - 144/105(110)} mmHg
   RR: 22 (4 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,607 mL
                                                                    763 mL
   PO:
             TF:
                                                                  1,267 mL
                                                                    453 mL
   IVF:
                                                                  1,140 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,472 mL
                                                                    734 mL
   Urine:
                                                                  2,472 mL
                                                                    734 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    135 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool  40% FM
   SpO2: 98%
   Physical Examination
   GEN: patient is more alert this morning; she is making eye contact and
   following commands. Patient is aphasic.
   LUNGS: wheezing diffusely.  Rhochi diffusely
   CV: RRR, s1 & s2 nl, no m/r/g
   ABD: + BS, nt, nd, soft, G-tube in place with dressing C-D-I.
   EXT: warm dry. No cyanosis, clubbing or edema.
   Labs / Radiology
   346 K/uL
   11.3 g/dL
   108 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   18 mg/dL
   105 mEq/L
   142 mEq/L
   34.8 %
   16.0 K/uL
        [image002.jpg]
                             [**2152-6-4**]  06:15 PM
                             [**2152-6-5**]  07:27 AM
                             [**2152-6-6**]  08:00 AM
                             [**2152-6-6**]  04:32 PM
                             [**2152-6-6**]  06:00 PM
                             [**2152-6-7**]  03:50 AM
   WBC
   20.8
   20.6
   17.4
   16.0
   Hct
   34.0
   34.6
   35.0
   34.8
   Plt
   [**Telephone/Fax (3) 3623**]46
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   TropT
   0.02
   0.03
   Glucose
   130
   91
   103
   200
   190
   108
   Other labs: PT / PTT / INR:12.9/26.0/1.0, CK / CKMB /
   Troponin-T:224/10/0.03, ALT / AST:17/24, Alk Phos / T Bili:91/0.2,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: no significant interval change.
   Microbiology: blood cx neg x1
   urine legionella neg x2
   urine cx neg x1
   sputum contaminated.
   Problem [**Name (NI) **]:
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, OTHER
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ASSESSMENT & PLAN:
   81 y/o F NH resident h/o COPD and recurrent PNA and COPD a/w aspiration
   PNA and COPD exacerbation.
   # PNA
 some clinical improvement with decreased secretions.
   leukocytosis trending down.
   -cont. vanco/ceftaz/flagyl (day 4)
 possible 10 day course, and start
   azithro (day [**1-26**]) for atypicals
   -freq. suctioning, chest PT
   -repeat sputum cx, urinary legionella AG
   -blood cx NGTD
   .
   #COPD
   -cont. 30mg PO today
 possible taper regimen.  continue for 2 days and
   then decrease to 20mg PO daily for 2days.
   -albuterol nebs at q2h
   -atrovent nebs q6h
   #.CHF - CXR reflects mild degree of volume overload.  ECHO was limited
   study but showed good overall LV fn so less likely to be playing a role
   in pt
s dyspnea.
   -gentle diuresis, 10 mg lasix IV PRN with goal: even to negative
   # VTACH
 nonsustained and monomorphic with no precipitating cause.  No
   intervention warranted.
   .
   #.HTN:
   -cont. lopressor
   .
   # Hypothyroidism
   - cont. levothyroxine
   #.Osteoporosis: currently on calcium supplements
   - cont calcium; t/c starting Vit D
   - fall precautions
   .
   #F/E/N
   -TF via g-tube
   -goal: -even to negative
   .
   #PPx: PPI, SQH, bowel regimen, add ISS while patient is on steroids.
   .
   #Access: lost PIV this am, hard to get venous access.  Place PICC today
   .
   #. Code: DNR/DNI, confirmed with family by ED staff.
   #. Contacts: Spoke with daughter [**Name (NI) 3577**] [**Name (NI) 3575**] (HCP) [**Telephone/Fax (1) 3578**]
   for ICU consent and confirm code status.
   #. Dispo: consider dispo to [**Hospital 12**] rehab facility.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-6**] 11:00 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2152-6-6**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-07 10:11:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2152-6-6**] 04:16 PM
   Ventricular Tachycardia noted overnight--non sustained and
   approximately 9 events
   Diuresis effected with Lasix IV yesterday--but net fluid balance
   minimally negative for 24 hours
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-6**] 09:45 PM
   Ceftazidime - [**2152-6-7**] 08:00 AM
   Metronidazole - [**2152-6-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-6**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2152-6-7**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2152-6-7**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 72 (64 - 111) bpm
   BP: 124/67(78) {98/42(60) - 144/105(110)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,607 mL
                                                                  1,313 mL
   PO:
             TF:
                                                                  1,267 mL
                                                                    652 mL
   IVF:
                                                                  1,140 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,472 mL
                                                                    761 mL
   Urine:
                                                                  2,472 mL
                                                                    761 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    135 mL
                                                                    552 mL
   Respiratory support
   O2 Delivery Device: None, Aerosol-cool
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Rhonchorous: Centrally)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   346 K/uL
   108 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   18 mg/dL
   105 mEq/L
   142 mEq/L
   34.8 %
   16.0 K/uL
        [image002.jpg]
                             [**2152-6-4**]  06:15 PM
                             [**2152-6-5**]  07:27 AM
                             [**2152-6-6**]  08:00 AM
                             [**2152-6-6**]  04:32 PM
                             [**2152-6-6**]  06:00 PM
                             [**2152-6-7**]  03:50 AM
   WBC
   20.8
   20.6
   17.4
   16.0
   Hct
   34.0
   34.6
   35.0
   34.8
   Plt
   [**Telephone/Fax (3) 3623**]46
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   TropT
   0.02
   0.03
   Glucose
   130
   91
   103
   200
   190
   108
   Other labs: PT / PTT / INR:12.9/26.0/1.0, CK / CKMB /
   Troponin-T:224/10/0.03, ALT / AST:17/24, Alk Phos / T Bili:91/0.2,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR--[**2152-6-7**]--no significant change--some suggestion of mild
   clearing in left lung
   Assessment and Plan
   81 yo female admit with respiratory failure in the setting of Chronic
   Obstructive Pulmonary Disease
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Atrovent/Albuterol nebs given
   Prednisone at 30mg and will continue to taper tomorrow
   Will likely need prolonged rehab to return to independent status
 PNEUMONIA, OTHER--she has had some significant improvement in terms
   of secretion volume but still with significant limitation in capacity
   to mobilize secreations
   vanco/CTX/Flagyl
   Ventricular Tachycardia
non sustained, mono-morphic, not triggered
   -Follow Lytes
   -Maintain telemetry
   -Check ECG
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   [**2152**]; residual aphasia
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   NH resident
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2152-6-6**] 11:00 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2152-6-6**] 04:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes